US07842685B2
To a solution of (rac)-3,3-difluoro-N-methoxy-N-methylcyclopentane-carboxamide (1.90 g, 9.83 mmol) in 20 mL THF at 0° C. was added methylmagnesium bromide 3.0 m in diethyl ether (6.56 mL, 19.67 mmol) slowly dropwise. The reaction mixture became white and cloudy. After 1.5 h, the reaction mixture was quenched carefully with ice and 1N HCl, and diluted with Et2O. The organic layer was washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo to give (rac)-1-(3,3-difluorocyclopentyl)ethanone as a light yellow oil. 1H NMR (400 MHz, CDCl3-d) δ ppm 3.03-3.19 (m, 1 H), 2.22-2.48 (m, 2 H), 2.20 (s, 3 H), 2.03-2.16 (m, 3 H), 1.90-1.99 (m, 1 H).

reactant | (rac)-3,3-difluoro-N-methoxy-N-methylcyclopentane-carboxamide | 9.83 mmol, 1.90 g | FC1(CC(CC1)C(=O)N(C)OC)F | C8H13F2NO2
reactant | methylmagnesium bromide | C[Mg]Br
reactant | diethyl ether | 19.67 mmol, 6.56 mL | C(C)OCC | C4H10O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (rac)-1-(3,3-difluorocyclopentyl)ethanone | FC1(CC(CC1)C(C)=O)F | C7H10F2O
